US07169780B2
Step 4: Benzyl-(2S,4S)-2-cyano-4-fluoropyrrolidine-1-carboxylate
Benzyl-(2S,4S)-2-aminocarbonyl-4-fluoropyrrolidine-1-carboxylate in dichloromethane was treated at 0° C. with Et3N (2.1 eq.) and trifluoroacetic anhydride was added dropwise.

reactant | Benzyl-(2S,4S)-2-aminocarbonyl-4-fluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)F)C(=O)N | C13H15FN2O3
reactant | Et3N | 2.1 eq. | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Benzyl-(2S,4S)-2-cyano-4-fluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C13H13FN2O2
